.subckt RING node_input node_out vdd gnd
  Mn1 node_out node_input gnd gnd CMOSN W = {wn1} L = {ln1}
    + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = { 2*wn1+10*LAMBDA}
    *NMOS STANDARD PARAMETERS
   Mp1 node_out node_input vdd vdd CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
*PMOS STANDARD PARAMETERS
.ends RING